US07691877B2
2,6-dibromo-3-nitro-pyridin-4-ylamine (6.5 g, 21.9 mmol) was suspended in concentrated HCl (100 mL) and cooled to 0° C., then sodium nitrite (7.5 g, 109 mmol) was added. There mixture was stirred for 30 minutes then warmed to room temperature. 100 mL of cooled water were added and the mixture was extracted with 100 mL of ethyl acetate. The organic layer was washed with 100 mL of water, dried over magnesium sulphate and the solvent was removed in vacuo to give 5.8 g of 2,6-dibromo-3-nitro-4-chloro pyridine as an orange oil. The oil was dissolved in 80 mL of THF and cooled to 0° C. Benzylamine (94.9 mL, 44.9 mmol) was dissolved in 20 mL of THF and added dropwise to the reaction followed by potassium carbonate (6.6 g, 48.2 mmol). The mixture was warmed to room temperature then heated at 50° C. overnight. Once the reaction was complete, the mixture was partitioned in water (150 mL) and ethyl acetate (100 mL). The organic layer was washed with 200 mL of water and 200 mL of brine, dried over magnesium sulphate and the solvent was removed in vacuo. 100 mL of ethanol was added and the mixture was sonicated for five minutes and let in the fume hood overnight. The precipitate was filtered off and washed with 30 mL of ethanol to give 4.56 g of the title compound as a yellow solid.

reactant | 2,6-dibromo-3-nitro-pyridin-4-ylamine | 21.9 mmol, 6.5 g | BrC1=NC(=CC(=C1[N+](=O)[O-])N)Br | C5H3Br2N3O2
reactant | sodium nitrite | 109 mmol, 7.5 g | N(=O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
reactant | HCl | 100 mL | Cl | ClH
product | 2,6-dibromo-3-nitro-4-chloro pyridine | 5.8 g | BrC1=NC(=CC(=C1[N+](=O)[O-])Cl)Br | C5HBr2ClN2O2
